US07230031B2
3-{2-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]vinyl}cyclopentanone
4-(4-benzyloxy-3-iodo-phenoxy)-5-methyl-7-nitroindane (571 mg), 3-vinylcyclopentanone (197 μL), palladium acetate (II)(13 mg), triphenylphosphine (30 mg), and silver carbonate (189 mg) were stirred at 80° C. for 21 hours. To the reaction mixture were added water and ethyl acetate. The insoluble material was removed by filtration. The filtrate was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid, brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1−5/1) to give the title compound (155 mg).

reactant | 4-(4-benzyloxy-3-iodo-phenoxy)-5-methyl-7-nitroindane | 571 mg | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1)I | C23H20INO4
reactant | 3-vinylcyclopentanone | 197 μL | C(=C)C1CC(CC1)=O | C7H10O
reactant | triphenylphosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
catalyst | palladium acetate | 13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | silver carbonate | 189 mg | C([O-])([O-])=O.[Ag+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{2-[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]vinyl}cyclopentanone | 155 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])C=CC1CC(CC1)=O | C30H29NO5
